US04183948
(a) Preparation of 3,3-dimethylallyl triphenylphosphonium bromide
A mixture of 3,3-dimethylallyl bromide (50.0 g), triphenylphosphine (88.0 g) and dry toluene (500 ml) was stirred and heated at the reflux temperature for one hour, and then kept at the ambient temperature for 18 hours. The white precipitate of 3,3-dimethylallyl triphenylphosphonium bromide (m.p. 242° C.) was collected by filtration, washed with diethyl ether and dried.

reactant | 3,3-dimethylallyl bromide | 50.0 g | CC(=CCBr)C | C5H9Br
reactant | triphenylphosphine | 88.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 3,3-dimethylallyl triphenylphosphonium bromide | [Br-].CC(=CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C23H24P.BrH/c1-20(2)18-19-24(21-12-6-3-7-13-21,22-14-8-4-9-15-22)23-16-10-5-11-17-23;/h3-18H,19H2,1-2H3;1H/q+1;/p-1
